US07358238B2
3-Phenyl-[1,2,4]triazolo[3,4-a]isoquinoline
To a solution of 1-chloro-isoquinoline (4 g, 24.45 mmol) in ethanol (50 ml) was added benzoic acid hydrazide (4 g, 29.34 mmol) and the mixture was stirred at reflux temperature for 16 hrs. The reaction mixture was cooled and the precipitate was filtered off and recrystallised from ethanol (50 ml) affording 1.9 g of impure (NMR) title compound. The filtrate was purified by silicagel chromatography using a mixture of ethyl acetate/heptane (1:2) as eluent. Pure fractions were collected and the solvent evaporated in vacuo affording 0.2 g (3%) of the title compound as a solid.

reactant | 1-chloro-isoquinoline | 24.45 mmol, 4 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | benzoic acid hydrazide | 29.34 mmol, 4 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Phenyl-[1,2,4]triazolo[3,4-a]isoquinoline | C1(=CC=CC=C1)C1=NN=C2N1C=CC1=CC=CC=C21 | C16H11N3
